** sch_path: /foss/designs/thesis_hp/designs/otas/1_schematics/FMD_QNC_ota_final_decoup.sch
.SUBCKT FMD_QNC_ota_final_decoup AVSS IBIAS AVDD PLUS MINUS VOUT
*.PININFO AVSS:I IBIAS:I AVDD:I PLUS:I MINUS:I VOUT:O
M23 IBIAS IBIAS AVSS AVSS sg13_lv_nmos w=8.5u l=5u ng=4 m=1
M24 net7 IBIAS AVSS AVSS sg13_lv_nmos w=8.5u l=5u ng=4 m=1
M11 net7 net2 net1 AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
M12 net1 net1 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
M18 AVSS net2 net5 AVDD sg13_lv_pmos w=14u l=0.5u ng=4 m=1
M17 net5 net1 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
M9 net4 net1 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
M5 net2 net5 net4 AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
M7 net2 net12 net3 AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M3 net3 net2 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M30 net6 IBIAS AVSS AVSS sg13_lv_nmos w=8.5u l=5u ng=4 m=1
M1 net4 PLUS net6 AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
M2 net8 MINUS net6 AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
M37 net8 AVSS AVSS AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
M6 VOUT net5 net8 AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
M0 net8 net1 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
M8 VOUT net12 net9 AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M4 net9 net2 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M29 net9 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M28 VOUT AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M32 net8 AVDD AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
M33 VOUT AVDD AVDD AVDD sg13_lv_pmos w=7u l=2u ng=2 m=1
M13 net10 net1 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
M15 net10 VOUT net11 AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M16 net11 net11 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M14 net12 net11 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M10 AVDD VOUT net12 AVSS sg13_lv_nmos w=15u l=0.5u ng=4 m=1
M36 net4 AVSS AVSS AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
M34 net2 AVDD AVDD AVDD sg13_lv_pmos w=7u l=2u ng=2 m=1
M27 net3 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M26 net2 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
M35 net1 AVDD AVDD AVDD sg13_lv_pmos w=7u l=2u ng=2 m=1
M31 net11 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
C2 VOUT AVSS cap_cmim w=25.82e-6 l=25.82e-6 m=1
M19 AVSS net12 AVSS AVSS sg13_lv_nmos w=8u l=1u ng=4 m=1
M20 AVSS IBIAS AVSS AVSS sg13_lv_nmos w=8u l=1u ng=4 m=1
M21 AVDD net1 AVDD AVDD sg13_lv_pmos w=12u l=0.5u ng=4 m=1
M22 AVDD net5 AVDD AVDD sg13_lv_pmos w=12u l=0.5u ng=4 m=1
.ENDS
